US07011838B2
Using 0.37 g of (4-cyanobenzyl)malononitrile, 5 ml of N,N-dimethylformamide, 0.12 g of sodium hydride (60% in oil), and 0.25 g of 1,3,3-trichloropropene, and according to the process described in the Production Example 1, there was obtained 0.17 g of 2-(4-cyanobenzyl)-2-(3,3-dichloropropenyl)malononitrile (the present compound (56)).

reactant | (4-cyanobenzyl)malononitrile | 0.37 g | C(#N)C1=CC=C(CC(C#N)C#N)C=C1 | C11H7N3
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 1,3,3-trichloropropene | 0.25 g | ClC=CC(Cl)Cl | C3H3Cl3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-cyanobenzyl)-2-(3,3-dichloropropenyl)malononitrile | 0.17 g, Yield: 29% | C(#N)C1=CC=C(CC(C#N)(C#N)C=CC(Cl)Cl)C=C1 | C14H9Cl2N3
